**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  Common Mode Power Line Choke 
* Matchcode:              WE-ExB 
* Library Type:           LTspice
* Version:                rev22a
* Created/modified by:    Ella      
* Date and Time:          2022-05-26
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt TypeL_744844101_100u 1 2 3 4
L5 N010 N009 {L3} Rpar={Rs3}
C3 4 N001 {C1} Rser={R2}
L1 4 N011 {L1} Rpar={Rs1}
L3 N011 N010 {L2} Rpar={Rs2}
L6 N014 N013 {L3} Rpar={Rs3}
C4 3 N012 {C1} Rser={R2}
L2 3 N015 {L1} Rpar={Rs1}
L4 N015 N014 {L2} Rpar={Rs2}
L8 N013 N012 {L4} Rpar={Rs4}
L7 N009 N001 {L4} Rpar={Rs4}
L9 N001 N006 {L5} Rpar={Rs5} Cpar={C2}
L10 N012 N020 {L5} Rpar={Rs5} Cpar={C2}
R1 N002 1 {Rdc}
R2 N004 N002 {dR4}
C1 N003 N002 {dC3}
L17 N007 N002 {dL3}
L18 N016 N017 {dL3}
C2 N007 N017 {ck}
R3 N004 N003 {dR3}
R4 N018 N021 {dR3}
C9 N021 N016 {dC3}
R5 N018 N016 {dR4}
L19 N004 N007 {dL3}
L20 N017 N018 {dL3}
R6 N016 2 {Rdc}
R8 N006 N004 {dR6}
C10 N005 N004 {dC4}
L13 N008 N004 {dL4}
L14 N018 N019 {dL4}
C11 N008 N019 {ck}
R9 N006 N005 {dR5}
R10 N020 N022 {dR5}
C12 N022 N018 {dC4}
R11 N020 N018 {dR6}
L15 N006 N008 {dL4}
L16 N019 N020 {dL4}
K3 L5 L6 1
K2 L3 L4 1
K1 L1 L2 1
K4 L7 L8 1
K5 L9  L10 1
K7 L17 L18 L19 L20 0.9999
K6 L13 L14 L15 L16 0.9999
.param dl3=0.0000001409405
.param dc3=0.0000000000000333
.param dl4=0.000000001351
.param dc4=0.00000000000143
.param dr3=0.48
.param dr4=2100
.param dr5=1.88
.param dr6=166
.param ck=8.4pF
.param L1=0.460098919891953E-05
.param L2=0.0000909908
.param L3=0.0000018
.param L4=0.000018
.param L5=0.0000018
.param C1=1.22922309E-12
.param C2=0.00000000002754
.param Rs1=590
.param Rs2=670
.param Rs3=703
.param Rs4=78
.param Rs5=109
.param R2=0.11
.param Rdc=6m
.ends TypeL_744844101_100u
********
.subckt TypeL_744844102_1000u 1 2 3 4
L5 N010 N009 {L3} Rpar={Rs3}
C3 4 N001 {C1} Rser={R2}
L1 4 N011 {L1} Rpar={Rs1}
L3 N011 N010 {L2} Rpar={Rs2}
L6 N014 N013 {L3} Rpar={Rs3}
C4 3 N012 {C1} Rser={R2}
L2 3 N015 {L1} Rpar={Rs1}
L4 N015 N014 {L2} Rpar={Rs2}
L8 N013 N012 {L4} Rpar={Rs4}
L7 N009 N001 {L4} Rpar={Rs4}
L9 N001 N006 {L5} Rpar={Rs5} Cpar={C2}
L10 N012 N020 {L5} Rpar={Rs5} Cpar={C2}
R1 N002 1 {Rdc}
R2 N004 N002 {dR4}
C1 N003 N002 {dC3}
L17 N007 N002 {dL3}
L18 N016 N017 {dL3}
C2 N007 N017 {ck}
R3 N004 N003 {dR3}
R4 N018 N021 {dR3}
C9 N021 N016 {dC3}
R5 N018 N016 {dR4}
L19 N004 N007 {dL3}
L20 N017 N018 {dL3}
R6 N016 2 {Rdc}
R8 N006 N004 {dR6}
C10 N005 N004 {dC4}
L13 N008 N004 {dL4}
L14 N018 N019 {dL4}
C11 N008 N019 {ck}
R9 N006 N005 {dR5}
R10 N020 N022 {dR5}
C12 N022 N018 {dC4}
R11 N020 N018 {dR6}
L15 N006 N008 {dL4}
L16 N019 N020 {dL4}
K3 L5 L6 1
K2 L3 L4 1
K1 L1 L2 1
K4 L7 L8 1
K5 L9  L10 1
K7 L17 L18 L19 L20 0.9999
K6 L13 L14 L15 L16 0.9999
.param dl3=0.0000009960
.param dc3=0.0000000000000433
.param dl4=0.0000000165351
.param dc4=0.0000000000143
.param dr3=0.48
.param dr4=9700
.param dr5=1.88
.param dr6=766
.param ck=17.15pF 
.param L1=0.0009410059538
.param L2=0.00002050035
.param L3=0.000000000847
.param L4=0.00000004222
.param L5=0.000089965
.param C1=0.00000000000717309
.param C2=0.0000000000059294
.param Rs1=10185
.param Rs2=8447
.param Rs3=5703
.param Rs4=5678
.param Rs5=7009
.param R2=0.11
.param Rdc=42m
.ends TypeL_744844102_1000u
********
.subckt TypeL_744844221_220u 1 2 3 4
L5 N010 N009 {L3} Rpar={Rs3}
C3 4 N001 {C1} Rser={R2}
L1 4 N011 {L1} Rpar={Rs1}
L3 N011 N010 {L2} Rpar={Rs2}
L6 N014 N013 {L3} Rpar={Rs3}
C4 3 N012 {C1} Rser={R2}
L2 3 N015 {L1} Rpar={Rs1}
L4 N015 N014 {L2} Rpar={Rs2}
L8 N013 N012 {L4} Rpar={Rs4}
L7 N009 N001 {L4} Rpar={Rs4}
L9 N001 N006 {L5} Rpar={Rs5} Cpar={C2}
L10 N012 N020 {L5} Rpar={Rs5} Cpar={C2}
R1 N002 1 {Rdc}
R2 N004 N002 {dR4}
C1 N003 N002 {dC3}
L17 N007 N002 {dL3}
L18 N016 N017 {dL3}
C2 N007 N017 {ck}
R3 N004 N003 {dR3}
R4 N018 N021 {dR3}
C9 N021 N016 {dC3}
R5 N018 N016 {dR4}
L19 N004 N007 {dL3}
L20 N017 N018 {dL3}
R6 N016 2 {Rdc}
R8 N006 N004 {dR6}
C10 N005 N004 {dC4}
L13 N008 N004 {dL4}
L14 N018 N019 {dL4}
C11 N008 N019 {ck}
R9 N006 N005 {dR5}
R10 N020 N022 {dR5}
C12 N022 N018 {dC4}
R11 N020 N018 {dR6}
L15 N006 N008 {dL4}
L16 N019 N020 {dL4}
K3 L5 L6 1
K2 L3 L4 1
K1 L1 L2 1
K4 L7 L8 1
K5 L9  L10 1
K7 L17 L18 L19 L20 0.9999
K6 L13 L14 L15 L16 0.9999
.param dl3=0.00000026
.param dc3=0.0000000000000333
.param dl4=0.000000001351
.param dc4=0.00000000000143
.param dr3=0.48
.param dr4=3800
.param dr5=1.88
.param dr6=166
.param ck=12.4pF
.param L1=1.40000989198919E-05
.param L2=0.000228
.param L3=0.0000018
.param L4=0.000018
.param L5=0.0000018
.param C1=1.82922309E-12
.param C2=0.00000000002754
.param Rs1=1600
.param Rs2=1610
.param Rs3=703
.param Rs4=78
.param Rs5=109
.param R2=0.11
.param Rdc=9m
.ends TypeL_744844221_220u
********
.subckt TypeL_744844470_47u 1 2 3 4
L5 N010 N009 {L3} Rpar={Rs3}
C3 4 N001 {C1} Rser={R2}
L1 4 N011 {L1} Rpar={Rs1}
L3 N011 N010 {L2} Rpar={Rs2}
L6 N014 N013 {L3} Rpar={Rs3}
C4 3 N012 {C1} Rser={R2}
L2 3 N015 {L1} Rpar={Rs1}
L4 N015 N014 {L2} Rpar={Rs2}
L8 N013 N012 {L4} Rpar={Rs4}
L7 N009 N001 {L4} Rpar={Rs4}
L9 N001 N006 {L5} Rpar={Rs5} Cpar={C2}
L10 N012 N020 {L5} Rpar={Rs5} Cpar={C2}
R1 N002 1 {Rdc}
R2 N004 N002 {dR4}
C1 N003 N002 {dC3}
L17 N007 N002 {dL3}
L18 N016 N017 {dL3}
C2 N007 N017 {ck}
R3 N004 N003 {dR3}
R4 N018 N021 {dR3}
C9 N021 N016 {dC3}
R5 N018 N016 {dR4}
L19 N004 N007 {dL3}
L20 N017 N018 {dL3}
R6 N016 2 {Rdc}
R8 N006 N004 {dR6}
C10 N005 N004 {dC4}
L13 N008 N004 {dL4}
L14 N018 N019 {dL4}
C11 N008 N019 {ck}
R9 N006 N005 {dR5}
R10 N020 N022 {dR5}
C12 N022 N018 {dC4}
R11 N020 N018 {dR6}
L15 N006 N008 {dL4}
L16 N019 N020 {dL4}
K3 L5 L6 1
K2 L3 L4 1
K1 L1 L2 1
K4 L7 L8 1
K5 L9  L10 1
K7 L17 L18 L19 L20 0.9999
K6 L13 L14 L15 L16 0.9999
.param dl3=0.000000054541
.param dc3=0.0000000000000333
.param dl4=0.000000001351
.param dc4=0.00000000000143
.param dr3=0.48
.param dr4=1580
.param dr5=1.88
.param dr6=166
.param ck=7pF
.param L1=0.00000169198919538
.param L2=0.000045991035
.param L3=0.000000537
.param L4=0.0000000391634222
.param L5=0.000000004425
.param C1=0.000000000001522309
.param C2=0.00000000000154
.param Rs1=310
.param Rs2=410
.param Rs3=703
.param Rs4=78
.param Rs5=109
.param R2=0.11
.param Rdc=4.6m
.ends TypeL_744844470_47u
********
.subckt TypeL_744844471_470u 1 2 3 4
L5 N010 N009 {L3} Rpar={Rs3}
C3 4 N001 {C1} Rser={R2}
L1 4 N011 {L1} Rpar={Rs1}
L3 N011 N010 {L2} Rpar={Rs2}
L6 N014 N013 {L3} Rpar={Rs3}
C4 3 N012 {C1} Rser={R2}
L2 3 N015 {L1} Rpar={Rs1}
L4 N015 N014 {L2} Rpar={Rs2}
L8 N013 N012 {L4} Rpar={Rs4}
L7 N009 N001 {L4} Rpar={Rs4}
L9 N001 N006 {L5} Rpar={Rs5} Cpar={C2}
L10 N012 N020 {L5} Rpar={Rs5} Cpar={C2}
R1 N002 1 {Rdc}
R2 N004 N002 {dR4}
C1 N003 N002 {dC3}
L17 N007 N002 {dL3}
L18 N016 N017 {dL3}
C2 N007 N017 {ck}
R3 N004 N003 {dR3}
R4 N018 N021 {dR3}
C9 N021 N016 {dC3}
R5 N018 N016 {dR4}
L19 N004 N007 {dL3}
L20 N017 N018 {dL3}
R6 N016 2 {Rdc}
R8 N006 N004 {dR6}
C10 N005 N004 {dC4}
L13 N008 N004 {dL4}
L14 N018 N019 {dL4}
C11 N008 N019 {ck}
R9 N006 N005 {dR5}
R10 N020 N022 {dR5}
C12 N022 N018 {dC4}
R11 N020 N018 {dR6}
L15 N006 N008 {dL4}
L16 N019 N020 {dL4}
K3 L5 L6 1
K2 L3 L4 1
K1 L1 L2 1
K4 L7 L8 1
K5 L9  L10 1
K7 L17 L18 L19 L20 0.9999
K6 L13 L14 L15 L16 0.9999
.param dl3=0.000000513805
.param dc3=0.0000000000000333
.param dl4=0.000000001351
.param dc4=0.00000000000143
.param dr3=0.48
.param dr4=6380
.param dr5=1.88
.param dr6=166
.param ck=15.2pF
.param L1=3.00098919891953E-05
.param L2=0.000508
.param L3=0.0000018
.param L4=0.000018
.param L5=0.0000018
.param C1=2.72922309E-12
.param C2=0.00000000002754
.param Rs1=5000
.param Rs2=3610
.param Rs3=703
.param Rs4=78
.param Rs5=109
.param R2=0.11
.param Rdc=16m
.ends TypeL_744844471_470u